US06465493B1
Example 16: 4-[4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]-benzamide
4-[4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]benzonitrile (1 g) was dissolved in methanol (200 ml). Potassium carbonate was added (1 g) and the resulting suspension treated dropwise with an aqueous hydrogen peroxide solution (10 ml of 30% w/v solution) at 0° C. The suspension was stirred at room temperature for 18 hours then cautiously poured into saturated sodium hydrogen sulfite solution (200 ml) at 0° C. The mixture was tested for the presence of oxidant (starch-iodide test strips) before organic solvent removal by rotary evaporation under reduced pressure. The crude product was digested in ethyl acetate (200 ml). The ethyl acetate layer was dried (MgSO4) and evaporated to dryness under reduced pressure. The title compound was isolated by silica gel column chromatography (using a 1:9:190 ammonia:methanol:dichloromethane solution as eluent) as a beige solid (153 mg, 15%). 1H NMR (250 MHz, CDCl3) δ: 4.26 (4H, brs), 6.05 (1H, brs), 6.60 (1H, brs), 6.87 (1 H, brd, J=7. 7 Hz) 7.0-7.25 (3H, 7.53 (2H, d, J=3.7 Hz), 7.76 (2H, d, J=8.2 Hz), 7.95 (2H, d, J=8.2 Hz), 8.47 (1H, d, J=4.6 Hz); m/z (ESMS): 399 (MH+).

reactant | 4-[4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]benzonitrile | 1 g | O1CCOC2=C1C=CC(=C2)C=2N=C(NC2C2=NC=CC=C2)C2=CC=C(C#N)C=C2 | C23H16N4O2
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | sodium hydrogen sulfite | 200 ml | S(=O)(O)[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-[4-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-5-pyridin-2-yl-1H-imidazol-2-yl]-benzamide | O1CCOC2=C1C=CC(=C2)C=2N=C(NC2C2=NC=CC=C2)C2=CC=C(C(=O)N)C=C2 | C23H18N4O3
